US03991202
6.3 Parts of 1-(β-butoxy-2,4-dichlorophenethyl)-imidazole and 5.1 parts of (p-chlorophenyl) (p-fluorophenyl)methyl chloride are mixed together in 80 parts of acetonitrile and the resulting mixutre is stirred at reflux temperature overnight. Thereafter, the solvent is vaporized off to obtain as residue a 1-(β-butoxy2,4-dichlorophenethyl)-3-[p-chloro-a-(p-fluorophenyl)benzyl]imidazolium chloride product.

reactant | 1-(β-butoxy-2,4-dichlorophenethyl)-imidazole | C(CCC)OC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C15H18Cl2N2O
reactant | (p-chlorophenyl) (p-fluorophenyl)methyl chloride | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)Cl | C13H9Cl2F
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(β-butoxy2,4-dichlorophenethyl)-3-[p-chloro-a-(p-fluorophenyl)benzyl]imidazolium chloride | [Cl-].C(CCC)OC(C[N+]1=CN(C=C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)F)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C28H27Cl3FN2O.ClH/c1-2-3-16-35-27(25-13-10-23(30)17-26(25)31)18-33-14-15-34(19-33)28(20-4-8-22(29)9-5-20)21-6-11-24(32)12-7-21;/h4-15,17,19,27-28H,2-3,16,18H2,1H3;1H/q+1;/p-1
